US07385059B2
5-fluoro-2-(1-methyl-piperidin-4-yloxy)-phenylamine) (0.049 g, 0.22 mmol) was combined with 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid (0.053 g, 0.20 mmol), EDC (0.048 g, 0.25 mmol), HOBt (0.034 g, 0.25 mmol) and DMF (1 ml) and the resulting reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was reduced in vacuo and purified by preparative LC/MS to give 4-(2,6-Difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid [5-fluoro-2-(1-methyl-piperidin-4-yloxy)-phenyl]-amide as a buff solid. (0.010 g, 11%) (LC/MS: Rt 2.19, [M+H]+474.27).

reactant | 5-fluoro-2-(1-methyl-piperidin-4-yloxy)-phenylamine | FC=1C=CC(=C(C1)N)OC1CCN(CC1)C | C12H17FN2O
reactant | 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid | 0.20 mmol, 0.053 g | FC1=C(C(=O)NC=2C(=NNC2)C(=O)O)C(=CC=C1)F | C11H7F2N3O3
reactant | EDC | 0.25 mmol, 0.048 g
reactant | HOBt | 0.25 mmol, 0.034 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-(2,6-Difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid [5-fluoro-2-(1-methyl-piperidin-4-yloxy)-phenyl]-amide | FC=1C=CC(=C(C1)NC(=O)C1=NNC=C1NC(C1=C(C=CC=C1F)F)=O)OC1CCN(CC1)C | C23H22F3N5O3
